US07247646B2
C. 6-Bromo-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one
To a solution of 6-bromo-4-(4-hydroxy-benzyl)-7-methoxy-3-(4-trifluoromethyl-phenyl)-chromen-2-one (0.70 g, 1.4 mmol) and triphenylphosphine (0.73 g, 2.8 mmol) in THF (40 mL) were sequentially added 1-(2-hydroxylethyl)pyrrolidine (0.65 mL, 5.6 mmol) and diisoproyl azodicaroxylate (0.55 mL, 2.8 mmol). The reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was poured into water and extracted with EtOAc. Organic extracts were combined and washed with water and saturated sodium chloride in succession, dried over magnesium sulfate, filtered and concentrated under reduced pressure. Purification using silica gel flash column chromatography (10% methanol in CH2Cl2) provided the title compound as a solid (0.44 g, 53%). MS (ESI) m/z 602.3 (M+1)+, 604.3 (M+1+2)+.

reactant | 6-bromo-4-(4-hydroxy-benzyl)-7-methoxy-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 1.4 mmol, 0.70 g | BrC=1C=C2C(=C(C(OC2=CC1OC)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)O | C24H16BrF3O4
reactant | triphenylphosphine | 2.8 mmol, 0.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxylethyl)pyrrolidine | 5.6 mmol, 0.65 mL | OCCN1CCCC1 | C6H13NO
reactant | diisoproyl azodicaroxylate | 2.8 mmol, 0.55 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-Bromo-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 0.44 g, 53% | BrC=1C=C2C(=C(C(OC2=CC1OC)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1 | C30H27BrF3NO4
